US08703767B2
11. Preparation of N-(3-(2-((4-morpholinophenyl)amino)-5-(phenylamino)pyrimidin-4-yl)phenyl)acrylamide
N-(3-(2-Chloro-5-(phenylamino)pyrimidin-4-yl)phenyl)acrylamide (30 mg, 0.086 mmol), 4-morpholinoaniline (15.24 mg, 0.086 mmol) and Cs2CO3 (33.4 mg, 0.103 mmol) were dissolved in toluene (4.5 mL) in a sealable microwave compatible reaction tube, then tris(dibenzylideneacetone)-dipalladium(0) (Pd2(dba)3; 1.566 mg, 1.710 μmol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (1.979 mg, 3.42 μmol) were added. The reaction tube was sealed and the reaction was heated under microwave irradiation (30 min, 200° C., 3 atm). After completion of the reaction, solvent was removed by vacuum and product was purified by flash column chromatography. 1H NMR (400 MHz, CD3OD): δ 8.32 (s, 1H), 8.21 (s, 1H), 7.69-7.61 (m, 4H), 7.30 (t, 1H, J=8.0 Hz), 7.07 (m, 2H), 6.95 (m, 2H), 6.65 (m, 3H), 6.42-6.37 (m, 2H), 5.76 (dd, 1H, J=2.4 and 9.6 Hz), 3.82 (m, 4H), 3.08 (m, 4H); ESI-MS: [M+H]+.

reactant | N-(3-(2-Chloro-5-(phenylamino)pyrimidin-4-yl)phenyl)acrylamide | 0.086 mmol, 30 mg | ClC1=NC=C(C(=N1)C=1C=C(C=CC1)NC(C=C)=O)NC1=CC=CC=C1 | C19H15ClN4O
reactant | 4-morpholinoaniline | 0.086 mmol, 15.24 mg | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | Cs2CO3 | 0.103 mmol, 33.4 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 3.42 μmol, 1.979 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 4.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 1.710 μmol, 1.566 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-(2-((4-morpholinophenyl)amino)-5-(phenylamino)pyrimidin-4-yl)phenyl)acrylamide | O1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)C=1C=C(C=CC1)NC(C=C)=O)NC1=CC=CC=C1 | C29H28N6O2
